US04126615
100 kg. of 3,4-diethoxy-benzyl cyanide are hydrogenated in 310 1. of a 80 to 96% aqueous ethanol containing 9 to 12% of ammonia in the presence of 24 kg. of a Raney-nickel catalyst pretreated according to Example 3, at 45° to 68° C under a hydrogen overpressure of 8 to 10 atm. The catalyst is filtered off, the solution is evaporated and the residue is subjected to fractionation in vacuo. Thus 96 kg. of highly pure 3,4-diethoxy-beta-phenyl-ethylamine are obtained. The purity is almost 100%. The mono-desethylated beta-phenyl-ethylamine derivative is present at most in traces in such a small amount, which can not be detected by thin layer chromatography.

reactant | 3,4-diethoxy-benzyl cyanide | C(C)OC=1C=C(CC#N)C=CC1OCC | C12H15NO2
reactant | ammonia | N | H3N
catalyst | Raney-nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 3,4-diethoxy-beta-phenyl-ethylamine | C(C)OC=1C=C(C=CC1OCC)CCN | C12H19NO2
